US06762191B2
8-(2,4-Dichlorophenyl)-6-methoxy-1,2,3,4,4a,9b-hexahydro[1]benzofuro[3,2-c]pyridine, 261
In a 7 mL vial, copper (I) bromide (0.15 mmol, 22 mg) was diluted with 0.1 mL EtOAc and 0.6 mL of sodium methoxide in methanol (25 wt %). tert-Butyl 6-bromo-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate (0.5 mmol, 250 mg) was added to the thick slurry and heated to 85° C. on the orbit shaker. An additional 0.1 mL of EtOAc was added. After 4.5 hr, the solvent was removed in vacuo. The resulting material was diluted with water and extracted three times with EtOAc. The combined organics were washed with brine, dried over NaSO4, decanted and concentrated to give crude yellow-brown oil. This material was diluted with 4 mL CH2Cl2 and cooled to 0° C. with an ice bath. After 15 min, 4 ml trifluoroacetic acid was added and the reaction was stirred at rt. After 2 hr the solvent was removed in vacuo to give crude oil after a NaOH workup. The crude material was purified by column chromatography (0.5/3.5/96 NH4OH/CH3OH/CH2Cl2) to give 105 mg colorless oil (60%).

reactant | tert-Butyl 6-bromo-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate | 0.5 mmol, 250 mg | BrC1=CC(=CC2=C1OC1C2CN(CC1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C22H22BrCl2NO3
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | EtOAc | 0.1 mL | CCOC(=O)C | C4H8O2
solvent | sodium methoxide | 0.6 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (I) bromide | 0.15 mmol, 22 mg | [Cu]Br
solvent | EtOAc | 0.1 mL | CCOC(=O)C | C4H8O2
product | 8-(2,4-Dichlorophenyl)-6-methoxy-1,2,3,4,4a,9b-hexahydro[1]benzofuro[3,2-c]pyridine | ClC1=C(C=CC(=C1)Cl)C=1C=C(C2=C(C1)C1CNCCC1O2)OC | C18H17Cl2NO2
